US04410520
A suspension of 3-azido-1-ethoxycarbonylmethyl-8-methoxy-2,3,4,5-tetrahydro-1H-[1]-benzazepin-2-one (13.8 g) in methanol (75 ml) was treated with a solution of sodium hydroxide (1.9 g) in water (75 ml). The reaction mixture was stirred at 40°-45° for 2 hours. Water (100 ml) was added and the mixture was acidified with concentrated hydrochloric acid (10 ml) and extracted with methylene chloride (3×75 ml). The combined methylene chloride solutions were dried over magnesium sulfate and evaporated at reduced pressure to give 3-azido-1-carboxymethyl-8-methoxy-2,3,4,5-tetrahydro-1H-[1]-benzazepin-2-one, m.p. 145°-147°.

reactant | 3-azido-1-ethoxycarbonylmethyl-8-methoxy-2,3,4,5-tetrahydro-1H-[1]-benzazepin-2-one | 13.8 g | N(=[N+]=[N-])C1C(N(C2=C(CC1)C=CC(=C2)OC)CC(=O)OCC)=O | C15H18N4O4
reactant | sodium hydroxide | 1.9 g | [OH-].[Na+]
reactant | hydrochloric acid | 10 ml | Cl | ClH
solvent | methanol | 75 ml | CO | CH4O
solvent | water | 75 ml | O | H2O
solvent | Water | 100 ml | O | H2O
product | 3-azido-1-carboxymethyl-8-methoxy-2,3,4,5-tetrahydro-1H-[1]-benzazepin-2-one | N(=[N+]=[N-])C1C(N(C2=C(CC1)C=CC(=C2)OC)CC(=O)O)=O | C13H14N4O4
